US09120749B2
tert-butyl 4-(5-(3-acetyl-6-bromoquinolin-4-ylamino)pyrimidin-2-yl)piperazine-1-carboxylate
Following general procedure B, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (300 mg, 1.06 mmol) was reacted with tert-butyl 4-(5-aminopyrimidin-2-yl)piperazine-1-carboxylate (495 mg, 1.59 mmol) to afford the desired product (250 mg, 44%) as a yellow solid: ESI MS m/z 527, [C24H27BrN6O3+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 1.06 mmol, 300 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | tert-butyl 4-(5-aminopyrimidin-2-yl)piperazine-1-carboxylate | 1.59 mmol, 495 mg | NC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H21N5O2
product | tert-butyl 4-(5-(3-acetyl-6-bromoquinolin-4-ylamino)pyrimidin-2-yl)piperazine-1-carboxylate | 250 mg, 44% | C(C)(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)Br | C24H27BrN6O3
